US07932272B2
Quinoline-6-carboxylic acid 4-benzylamino-benzylamide
The resulting (4-aminomethyl-phenyl)-benzylamine (162 mg, 0.763 mmol), quinoline-6-carboxylic acid (132 mg, 0.736 mmol), benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate (506 mg, 1.14 mmol) and triethylamine (319 μl, 2.29 mmol) were dissolved in N,N-dimethylformamide (4.0 mL), and the solution was stirred for 2 hours at room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate, the organic layer was washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=1:1), and the title compound (224 mg, 0.610 mmol, 80%) was obtained as a white solid.

reactant | (4-aminomethyl-phenyl)-benzylamine | 0.763 mmol, 162 mg | NCC1=CC=C(C=C1)NCC1=CC=CC=C1 | C14H16N2
reactant | quinoline-6-carboxylic acid | 0.736 mmol, 132 mg | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate | 1.14 mmol, 506 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 2.29 mmol, 319 μl | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Quinoline-6-carboxylic acid 4-benzylamino-benzylamide | 0.610 mmol, 224 mg, 80% | C(C1=CC=CC=C1)NC1=CC=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=C1 | C24H21N3O
